US04277394
(II) Production of Z-Tyr-(D)-Met(O)-Gly-Phe-NH-NH2
6.0 g of Z-Tyr-(D)-Met(O)-Gly-Phe-OEt is dissolved in a mixed solvent of 20ml of ethyl alcohol-20 ml of DMF, and 2 ml of hydrazine hydrate is added tothe solution, which is then allowed to stand at room temperature for 2 days. The ethyl alcohol is distilled off, followed by adding diethyl ether, and the precipitated crystals are collected by filtration. The crystals are boiled with acetonitrile for washing. The yield of the product is 5.0 g, m.p. 182°-184° C., Rf1 =0.10, [α]D21 -13.4° (c=0.44, DMF),

reactant | Z-Tyr-(D)-Met(O)-Gly-Phe-OEt | 6.0 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCS(=O)C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C35H42N4O9S
reactant | hydrazine hydrate | 2 ml | O.NN
solvent | ethyl alcohol | 20ml | C(C)O | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | Z-Tyr-(D)-Met(O)-Gly-Phe-NH-NH2 | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCS(=O)C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C33H40N6O8S
